US07135492B2
5-Fluoro-2-methylphenyl isothiocyanate (16.7 g; 0.1 mol) was added dropwise to aqueous ethylamine (120 mL of 70% solution). The mixture was stirred for 2 hour at ambient temperature. Excess ethylamine was removed under a stream of nitrogen. The residue was diluted with water. The solids were collected by filtration, washed with water and dried. The solid was dissolved in ether and washed with water. The organic phase was dried over anhydrous magnesium sulfate then evaporated to dryness to give N-(5-fluoro-2-methylphenyl)-N′-ethylthiourea (18.5 g), m.p. 93–95° C. Mass spectrum; (El, M.+) m/z 212. 1H-NMR (DMSO-d6; 300 MHz): δ 9.01 (br s, 1H), 7.66 (br s, 1H), 7.25–7.18 (m, 2H), 6.96 (m, 1H), 3.45 (m, 2H), 2.13 (s, 3H), and 1.09 ppm (t, 3H).

reactant | 5-Fluoro-2-methylphenyl isothiocyanate | 0.1 mol, 16.7 g | FC=1C=CC(=C(C1)N=C=S)C | C8H6FNS
reactant | ethylamine | 120 mL | C(C)N | C2H7N
product | N-(5-fluoro-2-methylphenyl)-N′-ethylthiourea | 18.5 g | FC=1C=CC(=C(C1)NC(=S)NCC)C | C10H13FN2S
